US07183287B2
Step 1: Preparation of 3-[5-bromo-4-[(2,4-difluorobenzyl)oxy]-6-oxopyrimidin-1(6H)-yl]-4-methylbenzoic acid
To a cooled (0° C.) solution of 3-[4-[(2,4-difluorobenzyl)oxy]-6-oxopyrimidin-1(6H)-yl]-4-methylbenzoic acid (5.76 g, 15.5 mmol) in DCM (35 mL) was added NBS (2.48 g, 13.9 mmol). Allowed reaction to warm to ambient temperature. After 5 h, cooled (0° C.) reaction mixture, filtered solid, washed with cold DCM and cold hexane, and dried in vacuo. Obtained product as orange solid (5.57 g, 80%). Used without further purification. 1H NMR (CD3OD/400 MHz) δ8.29 (s, 1H), 8.05 (m, 1H), 7.91 (s, 1H), 7.60 (q, 1H, J=8.0 Hz), 7.51 (d, 1H, J=8.0 Hz), 6.99 (m, 2H), 5.57 (s, 2H), 2.17 (s, 3H). ESHRMS m/z 451.0095 (M+H calculated for C19H14BrF2N2O4 requires 451.0100).

reactant | 3-[4-[(2,4-difluorobenzyl)oxy]-6-oxopyrimidin-1(6H)-yl]-4-methylbenzoic acid | 15.5 mmol, 5.76 g | FC1=C(COC=2N=CN(C(C2)=O)C=2C=C(C(=O)O)C=CC2C)C=CC(=C1)F | C19H14F2N2O4
reactant | NBS | 13.9 mmol, 2.48 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | DCM | 35 mL | C(Cl)Cl | CH2Cl2
product | 3-[5-bromo-4-[(2,4-difluorobenzyl)oxy]-6-oxopyrimidin-1(6H)-yl]-4-methylbenzoic acid | BrC1=C(N=CN(C1=O)C=1C=C(C(=O)O)C=CC1C)OCC1=C(C=C(C=C1)F)F | C19H13BrF2N2O4
